US04259345
2-(Imidazol-1-ylmethyl)pyrrole (4.41 g) and acrylonitrile (6.0 ml) were dissolved in dioxan (75 ml) and benzyltrimethylammonium hydroxide (1.5 ml of 40% solution in methanol) was added. The mixture was warmed to 55° for 1 hour and then allowed to stand at room temperature for 18 hours. It was then poured into water and the mixture was extracted with ethyl acetate. The combined ethyl acetate extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform gave 1-(2-cyanoethyl)-2-(imidazol-1-ylmethyl)pyrrole (5.0 g) as an oil.

reactant | 2-(Imidazol-1-ylmethyl)pyrrole | 4.41 g | N1(C=NC=C1)CC=1NC=CC1 | C8H9N3
reactant | acrylonitrile | 6.0 ml | C(C=C)#N | C3H3N
reactant | benzyltrimethylammonium hydroxide | 1.5 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
solvent | dioxan | 75 ml | O1CCOCC1 | C4H8O2
product | 1-(2-cyanoethyl)-2-(imidazol-1-ylmethyl)pyrrole | 5.0 g | C(#N)CCN1C(=CC=C1)CN1C=NC=C1 | C11H12N4
